* e:\ic_sn54128\ic_sn54128.cir

.include SN54128.sub
v1  a1 gnd pulse(0 5 0.01n 0.01n 0.01n 5m 10m)
v2  b1 gnd pulse(0 5 0.01n 0.01n 0.01n 10m 20m)
v3  a2 gnd pulse(0 5 0.01n 0.01n 0.01n 15m 30m)
v4  b2 gnd pulse(0 5 0.01n 0.01n 0.01n 20m 40m)
v5  a3 gnd pulse(0 5 0.01n 0.01n 0.01n 25m 50m)
v6  b3 gnd pulse(0 5 0.01n 0.01n 0.01n 30m 60m)
v7  a4 gnd pulse(0 5 0.01n 0.01n 0.01n 35m 70m)
v8  b4 gnd pulse(0 5 0.01n 0.01n 0.01n 40m 80m)
v9 net-_x1-pad14_ gnd  dc 5
* u9  out1 plot_v1
* u10  out2 plot_v1
* u11  out3 plot_v1
* u12  out4 plot_v1
* u3  a1 plot_v1
* u5  b1 plot_v1
* u7  a2 plot_v1
* u8  b2 plot_v1
* u2  a4 plot_v1
* u4  a3 plot_v1
* u6  b3 plot_v1
* u1  b4 plot_v1
x1 a4 b4 a2 b2 a3 b3 a1 b1 out4 out2 out3 out1 gnd net-_x1-pad14_ SN54128
.tran 1e-06 80e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out1) v(out2)+10 v(out3)+20 v(out4)+30
plot v(a1) v(b1)+10 v(a2)+20 v(b2)+30 v(a4)+40 v(a3)+50 v(b3)+60 v(b4)+70
.endc
.end
